US04892966
0.70 g (5 mmol) of crude 2-methoxy-3,4-dimethyl-2-cyclopenten-1-one is held at reflux temperature for 3 hours with 7 g (10 fold amount by weight) of 5N hydrochloric acid. The reaction mixture is extracted 3 times with 50 ml of CH2Cl2 each time. The combined organic phases are dried over magnesium sulphate and concentrated on a rotary evaporator to give 0.45 g (71.4%) of 2-hydroxy-3,4-dimethyl-2-cyclopenten-1-one, content 90.6%. The data for this material are:

reactant | 2-methoxy-3,4-dimethyl-2-cyclopenten-1-one | 5 mmol, 0.70 g | COC=1C(CC(C1C)C)=O | C8H12O2
reactant | hydrochloric acid | 5N, 7 g | Cl | ClH
product | 2-hydroxy-3,4-dimethyl-2-cyclopenten-1-one | 0.45 g, 71.4% | OC=1C(CC(C1C)C)=O | C7H10O2
